US08217051B2
In a manner similar to the method described in Example 2, E/Z-3-{2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzylidene}-6-chloro-1,3-dihydro-indol-2-one (5.46 g, 12 mmol) was reacted with di-tert-butyl-dicarbonate (3.33 g, 15.3 mmol), triethylamine (6.54 mL, 47 mmol), and 4-dimethylaminopyridine (57 mg) in dichloromethane to give E/Z-3-{2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzylidene}-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow solid (Yield 4.8 g, 72.7%).

reactant | Z-3-{2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzylidene}-6-chloro-1,3-dihydro-indol-2-one | 12 mmol, 5.46 g | C(C)(C)(C)[Si](OCCOC1=C(\C=C\2/C(NC3=CC(=CC=C23)Cl)=O)C=C(C=C1)Cl)(C)C | C23H27Cl2NO3Si
reactant | di-tert-butyl-dicarbonate | 15.3 mmol, 3.33 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 47 mmol, 6.54 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 57 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-3-{2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-chloro-benzylidene}-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield 4.8 g, 72.7% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OCCO[Si](C)(C)C(C)(C)C)=O | C28H35Cl2NO5Si
